US05430027
2-Amino-N-(N,N-dimethylamino)adenosine.
The title compound was prepared according to method A as described in example 4 by reacting 1,1-dimethylhydrazine (0.79 g, 13.1 mmol) with 9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-2-amino-6-chloro-9H-purine (4.0 g, 9.35 mmol) and debenzoylating the purified product using methanolic ammonia to provide the title 2-amino-N-(dimethylamino)adenosine (after column chromatography) as an amorphous foam (0.56 g, 45%), 1H NMR (DMSO-d6)γ 2.54 (6H, s, 2×--CH3), 3.50-3.57 (1H, m, H-5'b), 3.61-3.68 (1H, m, H-5'b), 3.93 (1H, q, H-4'), 4.12 (1H, q, H-3'), 4.51 (1H, q, H-2'), 5.12, 5.38 (2H, 2d, 2'- and 3'-OH), 5.42 (1H, t, 5'-OH), 5.76 (1H, d, H-1'), 5.95 (2H, s, --NH2), 7.93 (1H, s, H-8), 8.20 (1H, s, N-H).

reactant | 1,1-dimethylhydrazine | 13.1 mmol, 0.79 g | CN(N)C | C2H8N2
reactant | 9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-2-amino-6-chloro-9H-purine | 9.35 mmol, 4.0 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)N | C16H18ClN5O7
reactant | ammonia | N | H3N
product | 2-amino-N-(dimethylamino)adenosine | 0.56 g, 45% | NC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NN(C)C | C12H19N7O4
